US06458337B1
A) (S)-N-[4-[bis[2-[bis(Carboxymethyl)amino]ethyl]amino]-4-carboxy-1-oxobutyl]-O-(4-hydroxyphenyl)-3,5-diiodo-L-tyrosine
O-(4-Hydroxyphenyl)-3,5-diiodo-L-tyrosine methyl ester, prepared according to Example 4 Step A, was reacted with N,N-bis[2-[bis[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]ethyl]-L-glutamic acid 1-(1,1-dimethyl-ethyl) ester (prepared according to: Anelli P. L., Fedeli F., Gazzotti O., Lattuada L., Lux G. and Rebasti F., “L-Glutamic Acid and L-Lysine as Useful Building Blocks for the Preparation of Bifuctional DTPA-like Ligand”, Bioconjugate Chem. (1999), 10, 137-140), diethylphosphoryl cyanide (DEPC) and ethyldiisopropylamine (DIEA), in DMF, under nitrogen atmosphere at 0° C. After purification by flash chromatography, the pentaester was deprotected at first with TFA in CH2Cl2 at room temperature for 47 h, then with 2 M LiOH for 21 h. The solution was acidified to pH 3.3 with aq. HCl and loaded onto an Amberlite® XAD 1600 resin column. Eluting with a H2O/CH3CN gradient afforded the ligand.

reactant | O-(4-Hydroxyphenyl)-3,5-diiodo-L-tyrosine methyl ester | COC([C@@H](N)CC1=CC(=C(C(=C1)I)OC1=CC=C(C=C1)O)I)=O | C16H15I2NO4
reactant | N,N-bis[2-[bis[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]ethyl]-L-glutamic acid 1-(1,1-dimethyl-ethyl) ester | CC(C)(C)OC([C@@H](N(CCN(CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)CCN(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)CCC(=O)O)=O | C37H67N3O12
reactant | L-Glutamic Acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | L-Lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | DTPA | C(CN(CC(=O)O)CC(=O)O)N(CCN(CC(=O)O)CC(=O)O)CC(=O)O | C14H23N3O10
reactant | diethylphosphoryl cyanide | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-N-[4-[bis[2-[bis(Carboxymethyl)amino]ethyl]amino]-4-carboxy-1-oxobutyl]-O-(4-hydroxyphenyl)-3,5-diiodo-L-tyrosine | C(=O)(O)CN(CCN(C(CCC(=O)N[C@@H](CC1=CC(=C(C(=C1)I)OC1=CC=C(C=C1)O)I)C(=O)O)C(=O)O)CCN(CC(=O)O)CC(=O)O)CC(=O)O | C32H38I2N4O15
